US07109209B2
To a cold (0° C.) solution of diisopropylamine (4.1 mL, 29 mmol) in tetrahydrofuran (25 mL) was added butyllithium (17 mL, 1.6 M in hexanes, 28 mmol) dropwise. The resultant solution was stirred at 0° C. for 10 minutes then cooled to −78° C. The reaction mixture was transferred via syringe to a cold (−78° C.) solution of N-cyclopentyl-4-[2-(4-fluorophenyl)-6-(triethoxymethyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine (4.86 g, 9.35 mmol) in tetrahydrofuran (25 mL). The reaction mixture was stirred at −78° C. for 30 minutes. Carbon tetrachloride (3.6 mL 37 mmol) was added and the resulting mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was poured onto ice. After the ice had melted, the aqueous mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over sodium sulfate. Filtration and concentration followed by flash chromatography (4:1 hexanes:ethyl acetate) provided 4-[7-chloro -2-(4-fluorophenyl)-6-(triethoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine (2.37 g, 46%) as a yellow solid. Rf 0.36 (4:1 hexanes:ethyl acetate); 1H NMR (400 MHz, CDCl3) δ 8.36 (d, 1H), 8.08 (d, 1H), 7.85 (d, 1H), 7.67 (m, 2H), 7.15 (t, 2H), 6.33 (d, 1H), 5.15 (d, 1H), 4.36 (m, 1H), 3.46 (q, 6H), 2.10 (m, 2H), 1.81–1.53 (m, 6H), 1.26 (t, 9H); MS m/z 554 (M+1).

reactant | diisopropylamine | 29 mmol, 4.1 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 28 mmol, 1.6 M, 17 mL | C(CCC)[Li]
reactant | N-cyclopentyl-4-[2-(4-fluorophenyl)-6-(triethoxymethyl)pyrazolo[1,5-α]pyridin-3-yl]-2-pyrimidinamine | 9.35 mmol, 4.86 g | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)C(OCC)(OCC)OCC)C2=CC=C(C=C2)F | C29H34FN5O3
reactant | Carbon tetrachloride | 37 mmol, 3.6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-[7-chloro -2-(4-fluorophenyl)-6-(triethoxymethyl)pyrazolo[1,5-a]pyridin-3-yl]-N-cyclopentyl-2-pyrimidinamine | 2.37 g, 46% | ClC1=C(C=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)F)C(OCC)(OCC)OCC | C29H33ClFN5O3
